US05550233
Part A: (3,5-dimethylphenyl)titanium triisopropoxide
A solution of 10 mmoles of 3,5-dimethylphenylmagnesium bromide in 10 mL of ether was cooled to -78° C. under nitrogen and to this was added 10 mL of a 1M solution of chlorotitanium triisopropoxide. The solution was stirred at -78° C. for 30 minutes and used in the next step.

reactant | 3,5-dimethylphenylmagnesium bromide | 10 mmoles | CC=1C=C(C=C(C1)C)[Mg]Br
reactant | chlorotitanium triisopropoxide | CC([O-])C.CC([O-])C.CC([O-])C.Cl[Ti+3]
solvent | ether | 10 mL | CCOCC | C4H10O
product | (3,5-dimethylphenyl)titanium triisopropoxide | CC([O-])C.CC([O-])C.CC([O-])C.CC=1C=C(C=C(C1)C)[Ti+3] | InChI=1S/C8H9.3C3H7O.Ti/c1-7-4-3-5-8(2)6-7;3*1-3(2)4;/h4-6H,1-2H3;3*3H,1-2H3;/q;3*-1;+3
